US08222246B2
g) 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-cyclopropyl-nicotinamide
To a solution of 6-[3-(4-chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (100 mg, 0.28 mmol) and cyclopropylamine (16.1 mg, 0.28 mmol) in THF (10 mL) were added at 0° C., 1-hydroxybenzotriazole hydrate (43.3 mg, 0.28 mmol), N-ethyldiisopropylamine (121 μL, 0.69 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (54.2 mg, 0.28 mmol). The mixture was stirred at room temperature overnight. The solvent was removed by distillation. The remaining material was purified by chromatography (silica, dichloromethane:ethyl acetate=4:6 to 1:0) to afford the title compound (95.2 mg, 86%) as a white solid. MS: m/e=398.0 [M−H]+.

reactant | 6-[3-(4-chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.28 mmol, 100 mg | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H13ClN2O5
reactant | cyclopropylamine | 0.28 mmol, 16.1 mg | C1(CC1)N | C3H7N
reactant | 1-hydroxybenzotriazole hydrate | 0.28 mmol, 43.3 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyldiisopropylamine | 0.69 mmol, 121 μL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.28 mmol, 54.2 mg | Cl.CN(CCCN=C=NCC)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-[3-(4-Chloro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-cyclopropyl-nicotinamide | 95.2 mg, 86% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC2CC2)C=C1)CO | C20H18ClN3O4
